US06939870B2
Starting from 3-(3-chloropropyl)-1,2,3-benzotriazin-4(3H)one (1.49 g, 6.68 mmol) and 3-(1,2,3,6-tetrahydro-4-pyridinyl)1-H-indole (1.32 g, 6.68 mmol), following the same procedure as in example 1, step 3; 2.03 g of 3-[3-(4-(1H-indol-3-yl)-3,6-dihydro-1(2H)-pyridinyl)propyl]-1,2,3-benzotriazin-4(3H)-one was isolated as an off white solid. Yield 79%; mp 189° C.; MS: 386.2 (M+H)+; 1H NMR (300 MHz, CDCl3): δ 2.20 (m, 2H), 2.57 (m, 2H), 2.66 (t, 2H), 2.72 (t, 2H), 3.21 (m, 2H), 4.61 (t, J=5.34 Hz, 2H), 6.15 (t, 1H), 7.12-7.21 (band, 2H), 7.26 (s, 1H), 7.35 (d, 1H), 7.75 (t, 1H), 7.87 (m, 2H), 8.13 (d, 1H), 8.36 (d, 1H).

reactant | 3-(3-chloropropyl)-1,2,3-benzotriazin-4(3H)one | 6.68 mmol, 1.49 g | ClCCCN1N=NC2=C(C1=O)C=CC=C2 | C10H10ClN3O
reactant | 3-(1,2,3,6-tetrahydro-4-pyridinyl)1-H-indole | 6.68 mmol, 1.32 g | N1CCC(=CC1)C1=CNC2=CC=CC=C12 | C13H14N2
product | 3-[3-(4-(1H-indol-3-yl)-3,6-dihydro-1(2H)-pyridinyl)propyl]-1,2,3-benzotriazin-4(3H)-one | 2.03 g, Yield 79% | N1C=C(C2=CC=CC=C12)C=1CCN(CC1)CCCN1N=NC2=C(C1=O)C=CC=C2 | C23H23N5O
